* File: Flip_Flop.pex.sp.pex
* Created: Mon Dec  2 08:44:28 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FLIP_FLOP%VSS 1 6 9 16 19 26 29 36 39 46 53 56 63 66 73 80 87 105
+ 106 107 108 110 111 112 114 115
c223 39 0 1.93409e-19
c224 1 0 1.40935e-19
r225 83 97 0.0193245
r226 83 87 0.261986
r227 80 115 10
r228 78 97 0.0278038
r229 78 80 1.86239
r230 77 96 0.0193245
r231 76 97 0.0193245
r232 76 77 0.384517
r233 73 114 10
r234 71 96 0.0278038
r235 71 73 1.86239
r236 67 95 0.0193245
r237 67 69 0.474554
r238 66 96 0.0193245
r239 66 69 0.0676967
r240 63 112 10
r241 61 95 0.0278038
r242 61 63 1.86239
r243 57 94 0.0193245
r244 57 59 0.611978
r245 56 95 0.0193245
r246 56 59 0.750079
r247 53 111 10
r248 51 94 0.0278038
r249 51 53 1.86239
r250 50 93 0.0193245
r251 49 94 0.0193245
r252 49 50 0.722324
r253 46 110 10
r254 44 93 0.0278038
r255 44 46 2.29357
r256 40 92 0.0193245
r257 40 42 0.238292
r258 39 93 0.0193245
r259 39 42 0.625517
r260 36 108 10
r261 34 92 0.0278038
r262 34 36 2.29357
r263 30 91 0.0193245
r264 30 32 0.477939
r265 29 92 0.0193245
r266 29 32 0.840116
r267 26 107 10
r268 24 91 0.0278038
r269 24 26 1.86239
r270 20 90 0.0189697
r271 20 22 0.156379
r272 19 91 0.0193245
r273 19 22 0.573391
r274 16 106 10
r275 14 90 0.0283406
r276 14 16 1.86239
r277 10 89 0.0189697
r278 10 12 0.0656658
r279 9 90 0.0189697
r280 9 12 0.513818
r281 6 105 10
r282 4 89 0.0283406
r283 4 6 1.86239
r284 1 87 30
r285 1 69 30
r286 1 59 10
r287 1 42 15
r288 1 32 10
r289 1 22 30
r290 1 12 30
.ends

.subckt PM_FLIP_FLOP%NET011 6 18 19 20 22 26 28 29 31 32 34 36 38 41 46 52 54 55
+ 56 57 59 60 63 64 67 68 69 71 72 73 75 76 77 80 81 83 86 87 88 89 95 96 98 107
+ 110 111 113 120 125
c260 120 0 1.32469e-19
c261 88 0 1.42361e-19
c262 83 0 9.79601e-20
c263 32 0 1.1257e-19
c264 29 0 1.33094e-19
r265 107 125 0.0435229
r266 107 117 25
r267 102 103 1.7
r268 98 102 3.11851
r269 98 99 1.7
r270 95 99 1.14044
r271 92 93 25
r272 89 103 0.236078
r273 88 92 0.0608094
r274 88 89 0.000846279
r275 87 103 0.695605
r276 86 114 8.02482
r277 86 113 7.86074
r278 85 86 25
r279 81 121 8.04826
r280 81 120 7.8373
r281 80 81 25
r282 78 80 0.0961895
r283 76 78 0.0483595
r284 76 77 1.30377
r285 75 77 0.0479332
r286 74 75 0.32902
r287 72 74 0.0479332
r288 72 73 0.712323
r289 71 73 0.0479332
r290 70 71 2.70754
r291 68 70 0.0485994
r292 68 69 0.908126
r293 66 69 0.0485994
r294 66 67 2.67404
r295 65 96 0.0363272
r296 64 67 0.0479332
r297 64 65 0.622148
r298 63 96 0.00944082
r299 62 95 0.0505895
r300 62 63 2.47935
r301 61 125 0.0391937
r302 60 96 0.0363272
r303 60 61 0.168072
r304 58 87 0.0490646
r305 58 59 2.22768
r306 56 59 0.0479332
r307 56 57 0.460498
r308 55 57 0.0483595
r309 54 85 0.0268573
r310 54 55 3.48435
r311 53 83 0.00195962
r312 52 85 0.0223572
r313 52 53 0.611974
r314 49 110 30
r315 46 49 0.821902
r316 46 110 10
r317 44 83 0.0462036
r318 44 46 1.7093
r319 41 111 10
r320 39 83 0.0462036
r321 39 41 1.85192
r322 32 117 9.91231
r323 32 34 87.1074
r324 29 93 10.8245
r325 29 31 92.2314
r326 22 38 92.2314
r327 21 22 57.1835
r328 19 21 3.46412
r329 19 20 30.7438
r330 18 20 3.46412
r331 18 121 53.9041
r332 15 36 87.1074
r333 15 120 26.5421
r334 6 28 92.2314
r335 6 114 62.205
r336 3 26 87.1074
r337 3 113 81.7785
.ends

.subckt PM_FLIP_FLOP%NET07 6 7 8 10 18 22 24 25 27 28 30 32 35 40 48 49 51 54 55
+ 56 58 59 60 61 62 63 64 65 72 76 81 83 84 86 87 90
c228 87 0 9.35022e-20
c229 83 0 8.50133e-20
c230 49 0 1.1257e-19
c231 40 0 1.42361e-19
c232 25 0 1.33094e-19
r233 86 87 25
r234 80 81 1.7
r235 76 80 0.792942
r236 76 87 1.7
r237 72 103 0.007162
r238 72 93 25
r239 69 81 1.72107
r240 67 68 25
r241 63 69 0.053897
r242 63 64 0.528504
r243 62 64 0.0499887
r244 61 67 0.0254908
r245 61 62 2.26033
r246 59 67 0.0225274
r247 59 60 0.726013
r248 57 60 0.0512115
r249 57 58 3.12749
r250 55 58 0.0484983
r251 55 56 1.90564
r252 54 56 0.0484983
r253 53 54 2.90386
r254 52 103 0.0160713
r255 51 53 0.0523213
r256 51 52 0.906566
r257 49 91 8.04826
r258 49 90 7.8373
r259 48 49 25
r260 46 65 0.0040833
r261 46 48 1.2552
r262 43 83 30
r263 40 43 1.01219
r264 40 83 10
r265 38 65 0.0432789
r266 38 40 2.51611
r267 35 84 10
r268 33 65 0.0432789
r269 33 35 0.790813
r270 28 68 11.3114
r271 28 30 92.2314
r272 25 93 10.7258
r273 25 27 92.2314
r274 21 86 4.34618
r275 21 22 1.62817
r276 18 22 7.57857
r277 17 32 87.1074
r278 17 18 20.7008
r279 10 93 7.67832
r280 9 10 15.3719
r281 7 9 3.46412
r282 7 8 30.7438
r283 6 8 3.46412
r284 6 91 53.9041
r285 3 24 87.1074
r286 3 90 26.5421
.ends

.subckt PM_FLIP_FLOP%NET020 6 10 12 15 20 26 28 31 32 33 35 38
c97 33 0 8.50133e-20
c98 31 0 5.08627e-20
c99 10 0 1.93409e-19
r100 31 39 8.02482
r101 31 38 7.86074
r102 30 31 25
r103 28 30 0.0145406
r104 27 32 0.0118693
r105 26 28 0.0490716
r106 26 27 1.58984
r107 23 33 30
r108 20 23 0.821902
r109 20 33 10
r110 18 32 0.033533
r111 18 20 2.77325
r112 15 35 10
r113 13 32 0.033533
r114 13 15 1.74573
r115 6 12 92.2314
r116 6 39 79.2165
r117 3 10 87.1074
r118 3 38 64.7669
.ends

.subckt PM_FLIP_FLOP%NET027 6 14 18 20 22 24 27 28 30 31 33 36 39 40 42 45 53 54
+ 59 60 61 64 67
r151 54 68 8.02415
r152 54 67 7.85945
r153 53 54 25
r154 51 59 0.0065123
r155 51 53 0.867514
r156 48 60 30
r157 45 48 0.821902
r158 45 60 10
r159 43 59 0.0600852
r160 43 45 1.48933
r161 42 59 0.0600852
r162 41 42 0.358489
r163 40 58 0.0485757
r164 39 41 0.0479332
r165 39 40 0.726238
r166 36 61 10
r167 34 58 0.00546457
r168 34 36 0.821902
r169 32 58 0.0971515
r170 32 33 0.950269
r171 30 33 0.0481061
r172 30 31 1.10691
r173 28 65 8.04768
r174 28 64 7.83592
r175 27 28 25
r176 25 31 0.0490716
r177 25 27 0.0874363
r178 14 24 92.2314
r179 14 68 62.205
r180 11 22 87.1074
r181 11 67 81.7785
r182 6 20 92.2314
r183 6 65 55.1339
r184 3 18 87.1074
r185 3 64 88.8496
.ends

.subckt PM_FLIP_FLOP%NET042 6 14 18 20 22 24 27 32 38 40 41 42 43 45 46 47 49 50
+ 51 54 55 57 60 61 63 66 69
c164 61 0 8.50133e-20
c165 27 0 1.90693e-19
r166 60 67 9.12652
r167 60 66 6.75904
r168 59 60 25
r169 55 70 8.02482
r170 55 69 7.86074
r171 54 55 25
r172 52 54 0.484264
r173 50 52 0.0483595
r174 50 51 0.273967
r175 48 51 0.0479332
r176 48 49 2.25391
r177 46 49 0.0479332
r178 46 47 0.68006
r179 45 47 0.0479332
r180 44 45 2.25391
r181 42 44 0.0479332
r182 42 43 0.245793
r183 41 43 0.0483595
r184 40 59 0.0229177
r185 40 41 0.330315
r186 39 57 0.00969808
r187 38 59 0.0255519
r188 38 39 1.45604
r189 35 61 30
r190 32 35 1.01679
r191 32 61 10
r192 30 57 0.0360213
r193 30 32 1.83526
r194 27 63 10
r195 25 57 0.0360213
r196 25 27 2.16838
r197 14 24 92.2314
r198 14 70 62.205
r199 11 22 87.1074
r200 11 69 81.7785
r201 6 20 92.2314
r202 6 67 52.8793
r203 3 18 87.1074
r204 3 66 91.1041
.ends

.subckt PM_FLIP_FLOP%NET077 6 10 12 13 14 16 19 22 23 24 25 27 32 41 42 43 44 45
+ 46 49
c118 45 0 8.50133e-20
c119 23 0 1.40935e-19
c120 16 0 1.90693e-19
r121 42 43 0.201111
r122 41 50 8.04768
r123 41 49 7.83592
r124 40 41 25
r125 35 45 30
r126 32 35 0.821902
r127 32 44 1.33583
r128 32 45 10
r129 28 43 0.539191
r130 27 44 0.0935978
r131 26 42 0.0455564
r132 26 27 0.0820015
r133 24 28 0.0479332
r134 24 25 0.753243
r135 22 42 0.0239119
r136 22 23 0.52777
r137 19 46 10
r138 17 25 0.0479332
r139 17 19 0.578051
r140 16 23 0.0479332
r141 15 16 0.22852
r142 14 40 0.00363516
r143 13 15 0.0479332
r144 13 14 0.717863
r145 6 12 92.2314
r146 6 50 88.2347
r147 3 10 87.1074
r148 3 49 55.7488
.ends

.subckt PM_FLIP_FLOP%Q 3 8 14 17 20 22 24 25
r38 20 22 1.7
r39 16 20 0.0949675
r40 16 17 0.102505
r41 14 20 0.0964631
r42 14 15 0.102505
r43 11 24 30
r44 8 11 0.821902
r45 8 17 1.36595
r46 8 24 10
r47 3 15 1.16096
r48 3 25 10
.ends

.subckt PM_FLIP_FLOP%VDD 1 6 12 16 22 29 35 42 48 55 61 68 74 81 89 92 108 109
+ 110 111 113 114 116
c189 1 0 5.1444e-19
r190 89 92 0.0541201
r191 87 101 0.0193245
r192 87 89 0.0797117
r193 85 116 30
r194 81 85 0.821902
r195 81 116 10
r196 79 101 0.0278038
r197 79 85 0.976372
r198 75 100 0.0193245
r199 75 77 0.621456
r200 74 101 0.0193245
r201 74 77 0.380455
r202 72 114 30
r203 68 72 0.821902
r204 68 114 10
r205 66 100 0.0278038
r206 66 72 0.976372
r207 62 99 0.0193245
r208 62 64 0.510433
r209 61 100 0.0193245
r210 61 64 0.852301
r211 59 113 30
r212 55 59 0.821902
r213 55 113 10
r214 53 99 0.0278038
r215 53 59 0.976372
r216 49 98 0.0193245
r217 49 51 0.255217
r218 48 99 0.0193245
r219 48 51 1.39861
r220 46 111 30
r221 42 46 0.821902
r222 42 111 10
r223 40 98 0.0278038
r224 40 46 0.976372
r225 36 97 0.0193245
r226 36 38 0.63838
r227 35 98 0.0193245
r228 35 38 0.679675
r229 33 110 30
r230 29 33 0.821902
r231 29 110 10
r232 27 97 0.0278038
r233 27 33 0.976372
r234 23 96 0.0189697
r235 23 25 0.0311405
r236 22 97 0.0193245
r237 22 25 0.708784
r238 20 109 30
r239 16 20 1.0214
r240 16 109 10
r241 14 96 0.0283406
r242 14 20 1.21337
r243 13 94 0.0189697
r244 12 96 0.0189697
r245 12 13 0.563236
r246 10 108 30
r247 6 10 0.821902
r248 6 108 10
r249 4 94 0.0283406
r250 4 10 0.976372
r251 1 94 30
r252 1 89 30
r253 1 77 30
r254 1 64 10
r255 1 51 15
r256 1 38 10
r257 1 25 15
.ends

.subckt PM_FLIP_FLOP%CLK 6 9 10 12 14 16 18 21 24
c32 21 0 9.79601e-20
r33 21 24 25
r34 18 21 1.7
r35 11 24 3.49062
r36 11 12 6.20428
r37 9 24 3.5571
r38 9 10 6.20428
r39 6 16 92.2314
r40 6 12 57.6959
r41 3 14 87.1074
r42 3 10 76.3471
.ends

.subckt PM_FLIP_FLOP%D 6 10 12 14 17 20 22
r42 20 23 9.02212
r43 20 22 9.04361
r44 17 20 25
r45 14 17 1.7
r46 6 12 92.2314
r47 6 23 57.5934
r48 3 10 87.1074
r49 3 22 76.3471
.ends

.subckt PM_FLIP_FLOP%R 6 14 17 18 20 22 24 26 28 30 32 33 34 36 37 38 39 42 43
+ 44 45 46 48 54 59 62 65
c179 62 0 5.08627e-20
c180 46 0 1.32469e-19
c181 43 0 1.74387e-19
c182 39 0 5.98877e-20
c183 38 0 3.36144e-20
r184 58 59 1.7
r185 54 58 3.18797
r186 54 55 1.7
r187 51 62 25
r188 48 51 1.7
r189 46 55 0.769135
r190 45 59 1.00449
r191 43 51 0.0313321
r192 43 44 0.0818024
r193 42 66 8.02482
r194 42 65 7.86074
r195 41 42 25
r196 39 41 0.0596166
r197 37 39 0.0483595
r198 37 38 1.50346
r199 36 38 0.0479332
r200 35 36 2.43656
r201 33 35 0.0479332
r202 33 34 1.43573
r203 32 46 0.0516758
r204 31 34 0.0479332
r205 31 32 2.22088
r206 30 45 0.0485136
r207 30 44 2.90632
r208 19 62 2.12347
r209 19 20 7.08597
r210 17 62 2.14968
r211 17 18 7.08597
r212 14 28 92.2314
r213 14 66 105.656
r214 11 26 87.1074
r215 11 65 38.3273
r216 6 24 92.2314
r217 6 20 57.5934
r218 3 22 87.1074
r219 3 18 76.3471
.ends

