* File: INV.pex.sp.pex
* Created: Mon Dec  2 08:55:34 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV%VSS 1 6 11 19
r16 9 14 0.0175382
r17 9 11 0.781897
r18 6 19 10
r19 4 14 0.0306086
r20 4 6 1.45436
r21 1 14 30
.ends

.subckt PM_INV%OUT 3 8 14 17 19 22 24 25
c28 22 0 8.75656e-20
r29 19 22 1.7
r30 16 22 0.125325
r31 16 17 0.0883397
r32 14 22 0.125325
r33 14 15 0.0883397
r34 11 24 30
r35 8 11 0.781098
r36 8 17 1.17068
r37 8 24 10
r38 3 15 1.5894
r39 3 25 10
.ends

.subckt PM_INV%VDD 1 6 14 21
r16 12 17 0.0175382
r17 12 14 0.612655
r18 10 21 30
r19 6 10 0.781098
r20 6 21 10
r21 4 17 0.0306086
r22 4 10 1.23091
r23 1 17 30
.ends

.subckt PM_INV%IN 6 9 10 12 14 16 18 21 24
c32 18 0 8.75656e-20
r33 21 24 25
r34 18 21 1.7
r35 11 24 3.06135
r36 11 12 6.47011
r37 9 24 3.06135
r38 9 10 6.47011
r39 6 16 92.2314
r40 6 12 57.5934
r41 3 14 87.1074
r42 3 10 76.4496
.ends

