* File: NAND2.pex.sp.pex
* Created: Mon Dec  2 09:10:23 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2%OUT 3 6 7 10 13 20 22
c36 20 0 1.20129e-19
r37 19 20 10
r38 17 19 0.781098
r39 17 20 30
r40 13 19 1.36498
r41 10 13 1.7
r42 8 13 0.74418
r43 6 8 0.0509397
r44 6 7 0.54502
r45 3 22 10
r46 1 7 0.0479332
r47 1 3 0.952085
.ends

.subckt PM_NAND2%VSS 1 6 11 14 19
r24 9 14 0.0175382
r25 9 11 0.210537
r26 6 19 10
r27 4 14 0.0306086
r28 4 6 1.45436
r29 1 14 30
.ends

.subckt PM_NAND2%VDD 1 6 12 16 24 32 33
c23 1 0 1.20129e-19
r24 22 29 0.0175382
r25 22 24 0.224753
r26 20 33 30
r27 16 20 0.781098
r28 16 33 10
r29 14 29 0.0306086
r30 14 20 1.23091
r31 13 27 0.0175382
r32 12 29 0.0175382
r33 12 13 0.855686
r34 10 32 30
r35 6 10 0.781098
r36 6 32 10
r37 4 27 0.0306086
r38 4 10 1.23091
r39 1 27 15
.ends

.subckt PM_NAND2%A 6 9 10 12 14 16 18 21 24
r30 21 24 25
r31 18 21 1.7
r32 11 24 3.12343
r33 11 12 6.43312
r34 9 24 3.12343
r35 9 10 6.43312
r36 6 16 92.2314
r37 6 12 57.5934
r38 3 14 87.1074
r39 3 10 76.4496
.ends

.subckt PM_NAND2%B 6 9 10 12 14 16 19 21 24
r26 19 24 25
r27 19 21 1.7
r28 11 24 3.12343
r29 11 12 6.43312
r30 9 24 3.12343
r31 9 10 6.43312
r32 6 16 92.2314
r33 6 12 57.5934
r34 3 14 87.1074
r35 3 10 76.4496
.ends

