* File: NAND3.pex.sp.pex
* Created: Mon Dec  2 09:37:38 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND3%OUT 3 10 16 20 26 27 29 30 32 35 37 38 40
r59 32 35 1.7
r60 28 35 0.126297
r61 28 29 0.0775449
r62 26 35 0.126297
r63 26 27 0.0775449
r64 23 38 30
r65 20 23 0.781098
r66 20 38 10
r67 18 20 2.10916
r68 17 30 0.00944082
r69 16 18 0.0479332
r70 16 17 1.21245
r71 13 37 30
r72 10 13 0.781098
r73 10 29 1.17068
r74 10 37 10
r75 6 30 0.0363272
r76 6 27 0.549877
r77 3 40 10
r78 1 30 0.0363272
r79 1 3 0.952085
.ends

.subckt PM_NAND3%VSS 1 6 11 14 19
r33 9 14 0.0175382
r34 9 11 0.210537
r35 6 19 10
r36 4 14 0.0306086
r37 4 6 1.45436
r38 1 14 30
.ends

.subckt PM_NAND3%VDD 1 6 12 16 24 26 31 33
r39 22 28 0.0175382
r40 22 24 0.076775
r41 20 33 30
r42 16 20 0.781098
r43 16 33 10
r44 14 28 0.0306086
r45 14 20 1.23091
r46 13 26 0.0175382
r47 12 28 0.0175382
r48 12 13 0.82793
r49 10 31 30
r50 6 10 0.781098
r51 6 31 10
r52 4 26 0.0306086
r53 4 10 1.23091
r54 1 26 15
.ends

.subckt PM_NAND3%A 6 9 10 12 14 16 19 21 24
r48 19 24 25
r49 19 21 1.7
r50 11 24 3.06135
r51 11 12 6.47011
r52 9 24 3.06135
r53 9 10 6.47011
r54 6 16 92.2314
r55 6 12 57.5934
r56 3 14 87.1074
r57 3 10 76.4496
.ends

.subckt PM_NAND3%B 6 9 10 12 14 16 19 21 24
r45 19 24 25
r46 19 21 1.7
r47 11 24 3.06135
r48 11 12 6.47011
r49 9 24 3.06135
r50 9 10 6.47011
r51 6 16 92.2314
r52 6 12 57.5934
r53 3 14 87.1074
r54 3 10 76.4496
.ends

.subckt PM_NAND3%C 6 9 10 12 14 16 21 24 25
r28 24 25 25
r29 21 25 1.7
r30 11 24 3.06135
r31 11 12 6.47011
r32 9 24 3.06135
r33 9 10 6.47011
r34 6 16 92.2314
r35 6 12 57.5934
r36 3 14 87.1074
r37 3 10 76.4496
.ends

