* File: NAND4.pex.sp.pex
* Created: Mon Dec  2 10:03:39 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND4%OUT 3 6 10 16 20 27 28 30 33 40 41 43 44
c79 20 0 2.05122e-20
r80 39 40 10
r81 37 39 0.781098
r82 37 40 30
r83 33 39 1.36498
r84 30 33 1.7
r85 26 33 0.74418
r86 26 27 0.0248006
r87 23 43 30
r88 20 23 0.781098
r89 20 43 10
r90 18 20 2.7199
r91 17 28 0.0363272
r92 16 18 0.0479332
r93 16 17 1.15135
r94 13 41 30
r95 10 13 0.781098
r96 10 41 10
r97 8 28 0.00944082
r98 8 10 3.66029
r99 7 27 0.0209012
r100 6 28 0.0363272
r101 6 7 1.1289
r102 3 44 10
r103 1 27 0.0248006
r104 1 3 0.952085
.ends

.subckt PM_NAND4%VSS 1 6 11 14 19
r43 9 14 0.0175382
r44 9 11 0.210537
r45 6 19 10
r46 4 14 0.0306086
r47 4 6 1.45436
r48 1 14 30
.ends

.subckt PM_NAND4%VDD 1 6 12 16 24 27 32 34
r53 22 29 0.0175382
r54 22 24 0.477262
r55 20 34 30
r56 16 20 0.781098
r57 16 34 10
r58 14 29 0.0306086
r59 14 20 1.23091
r60 13 27 0.0175382
r61 12 29 0.0175382
r62 12 13 0.630933
r63 10 32 30
r64 6 10 0.781098
r65 6 32 10
r66 4 27 0.0306086
r67 4 10 1.23091
r68 1 27 15
.ends

.subckt PM_NAND4%A 6 9 10 12 14 16 19 21 24
r45 19 24 25
r46 19 21 1.7
r47 11 24 3.06135
r48 11 12 6.47011
r49 9 24 3.06135
r50 9 10 6.47011
r51 6 16 92.2314
r52 6 12 57.5934
r53 3 14 87.1074
r54 3 10 76.4496
.ends

.subckt PM_NAND4%B 6 9 10 12 14 16 19 21 24
c49 19 0 8.78708e-20
r50 19 24 25
r51 19 21 1.7
r52 11 24 3.06135
r53 11 12 6.47011
r54 9 24 3.06135
r55 9 10 6.47011
r56 6 16 92.2314
r57 6 12 57.5934
r58 3 14 87.1074
r59 3 10 76.4496
.ends

.subckt PM_NAND4%C 6 9 10 12 14 16 19 21 24
c47 21 0 9.38117e-20
c48 19 0 1.45714e-20
r49 19 24 25
r50 19 21 1.7
r51 11 24 3.06135
r52 11 12 6.47011
r53 9 24 3.06135
r54 9 10 6.47011
r55 6 16 92.2314
r56 6 12 57.5934
r57 3 14 87.1074
r58 3 10 76.4496
.ends

.subckt PM_NAND4%D 6 9 10 12 14 16 21 24 25
r43 24 25 25
r44 21 25 1.7
r45 11 24 3.06135
r46 11 12 6.47011
r47 9 24 3.03042
r48 9 10 6.47011
r49 6 16 92.2314
r50 6 12 57.5934
r51 3 14 87.1074
r52 3 10 76.5521
.ends

